US07135475B2
A suspension of N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide (47 mg, 0.06 mmol) in dichloromethane (1.0 mL) at 25° C. was treated with trifluoroacetic acid (1.0 mL). The reaction was stirred at 25° C. for 1 h. At this time, the reaction was treated with triethylsilane (0.01 mL, 0.06 mmol) and then was concentrated in vacuo. The resulting residue was purified by HPLC (15–60% acetonitrile/water (0.075% trifluoroacetic acid in both solvents) over 40 min). Fractions with the desired product were combined and concentrated in vacuo. The resulting residue was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (25 mL). The aqueous layer was re-extracted with dichloromethane (1×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was dried in vacuo for 24 h to afford N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide (12 mg, 26%) as a white solid: LR-MS for C24H21FN8O3 (M+H)+ at m/z=489.

reactant | N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide | 0.06 mmol, 47 mg | FC1=C(CN2C(N(C=3N=C(NC3C2=O)CC2=CC=C(C=C2)NC(C)=O)CC2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC=C1 | C43H35FN8O3
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.06 mmol, 0.01 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide | 12 mg, 26% | FC1=C(CN2C(N(C=3N=C(NC3C2=O)CC2=CC=C(C=C2)NC(C)=O)CC2=NNC=N2)=O)C=CC=C1 | C24H21FN8O3
